US09029536B2
D) 7-Chloro-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine
A mixture of 1-ethyl-1H-pyrazolo[4,3-d]pyrimidin-7-ol (2.91 g) and POCl3 (30 mL) was stirred at 100° C. overnight. The mixture was concentrated under reduced pressure. The residue was neutralized with saturated NaHCO3 aqueous solution and extracted with AcOEt. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (2.14 g).

reactant | 1-ethyl-1H-pyrazolo[4,3-d]pyrimidin-7-ol | 2.91 g | C(C)N1N=CC=2N=CN=C(C21)O | C7H8N4O
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine | 2.14 g | ClC=1C2=C(N=CN1)C=NN2CC | C7H7ClN4
